US07259266B2
Step 1. Preparation of 2-hydroxy-4-methoxy-3-methylbenzaldehyde
A mixture of 2,4-dimethoxy 3-methyl benzaldehyde (3.75 g, 20.8 mmole) and beryllium chloride (5.0 g, 62.5 mmole) in anhydrous toluene (50 mL) was heated to reflux for 3.5 hour. The solvent was evaporated under reduced pressure to yield an orange residue, which was treated with 2 N HCl. The compound was extracted with methylene chloride and the organic layer was dried over anhydrous MgSO4. The filtrate was evaporated and dried in vacuo to give an orange solid (3.4 g, 99%): LCMS m/z 168.05 (M+H). 1H NMR (CDCl3/300 MHz) 11.45 (s, 1H), 9.72 (s, 1H), 7.37 (d, 1H, J=8.7 Hz), 6.57 (d, 1H, J=8.7 Hz), 3.92 (s, 3H), 2.10 (s, 3H).

reactant | 2,4-dimethoxy 3-methyl benzaldehyde | 20.8 mmole, 3.75 g | COC1=C(C=O)C=CC(=C1C)OC | C10H12O3
reactant | beryllium chloride | 62.5 mmole, 5.0 g | [Cl-].[Be+2].[Cl-]
reactant | HCl | 2 N | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-4-methoxy-3-methylbenzaldehyde | 3.4 g, 99% | OC1=C(C=O)C=CC(=C1C)OC | C9H10O3
